US06211199B1
23.3 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-methanesulfonyloxypropyl)-2-oxopyrrolidine
Combine 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-hydroxypropyl)-2-oxopyrrolidine (2.6 mmol), and dichloromethane (15 mL). Cool to −5° C. using a salt-ice bath. Add dropwise, methanesulfonyl chloride (0.19 g, 1.62 mmol) at such a rate as to maintain the reaction temperature below 0° C. After 1 hour, the reaction mixture is extracted with 1 M hydrochloric acid solution and then a 5% sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give the title compound: Rf=0.71 (silica gel, ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-hydroxypropyl)-2-oxopyrrolidine | 2.6 mmol | COC=1C=C(CN2C(C(CC2)(CCCO)CC2=CC=C(C=C2)F)=O)C=C(C1OC)OC | C24H30FNO5
reactant | methanesulfonyl chloride | 1.62 mmol, 0.19 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-methanesulfonyloxypropyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(CCCOS(=O)(=O)C)CC2=CC=C(C=C2)F)=O)C=C(C1OC)OC | C25H32FNO7S
